### PR TITLE
[Merged by Bors] - feat(Algebra/Category/ModuleCat/Sheaf): `O_S ⟶ f_* O_X` and `f^* O_S ≅ O_X`

### PR DESCRIPTION
**Pull request by joelriou**
---

- [x] depends on: #30403

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/Preserves/Shapes/Products.lean [hunk 1]
```diff
@@ -139,6 +139,12 @@ lemma PreservesCoproduct.of_iso_comparison [i : IsIso (sigmaComparison G f)] :
   exact @IsColimit.ofPointIso _ _ _ _ _ _ _
     (colimit.isColimit (Discrete.functor fun j : J => G.obj (f j))) i
 
+@[reassoc (attr := simp)]
+lemma map_ι_comp_inv_sigmaComparison [IsIso (sigmaComparison G f)] (j : J) :
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Limits/Preserves/Shapes/Products.lean:149]: Could you add a version for products as well?

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/Free.lean [hunk 2]
```diff
@@ -34,14 +34,38 @@ namespace SheafOfModules
...
+  invFun s := Cofan.IsColimit.desc (isColimitFreeCofan I) (fun i ↦ M.unitHomEquiv.symm (s i))
+  left_inv s := Cofan.IsColimit.hom_ext (isColimitFreeCofan I) _ _ (fun i ↦ by
+    simp only [freeCofan_inj, Equiv.symm_apply_apply]
+    apply Cofan.IsColimit.fac)
+  right_inv f := by
+    ext1 i
+    dsimp
+    apply M.unitHomEquiv.symm.injective
+    simp only [Equiv.symm_apply_apply]
+    apply Cofan.IsColimit.fac
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/Free.lean]: What is the point of this? Is it relevant to the rest of the PR?

**Review by dagurtomas — COMMENTED** [review]
The main content of the PR looks very good to me, I am just a bit confused about the changes to `freeHomEquiv`.

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/Free.lean (hunk 2 above)
Comment (joelriou) [reply Mathlib/Algebra/Category/ModuleCat/Sheaf/Free.lean]: Yes, this is to facilitate the rest of the PR, partly in terms of automation, and also because in `pullbackObjFreeIso_hom_naturality` (in `PullbackFree.lean`), I use that the colimit cofan which defines `free I` is preserved by the pullback functor. Introducing `isColimitFreeCofan` in order to prevent API leakage was the only reasonably clean solution I found.

File: Mathlib/CategoryTheory/Limits/Preserves/Shapes/Products.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Limits/Preserves/Shapes/Products.lean:149]: Thanks for the suggestion!

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/Free.lean (hunk 2 above)
Comment (dagurtomas) [reply Mathlib/Algebra/Category/ModuleCat/Sheaf/Free.lean]: I see. It's a bit sad that the proofs here got longer, for example `simp` isn't seeing `Cofan.IsColimit.fac`. Can you add a custom version of that  to make automation slightly better here?

Comment (dagurtomas) [reply Mathlib/Algebra/Category/ModuleCat/Sheaf/Free.lean]: BTW you probably need to merge master to make CI happy

Comment (joelriou) [reply Mathlib/Algebra/Category/ModuleCat/Sheaf/Free.lean]: The proofs are now much shorter.
